US05807859
A mixture of 1 g of 10-(tert-butoxycarbonyl-methyl)-5H,10H-imidazo[l,2-a]indeno[1,2-e]pyrazin-4-one, 5 ml of dimethyl sulphoxide and 25 ml of 3N hydrochloric acid in ethyl ether is stirred, under cover of argon, for 107 hours at a temperature in the region of 20° C. After concentration under reduced pressure, the residue is crystallized from 30 ml of acetone. The solid obtained is treated with 50 ml of water and 7 ml of saturated sodium hydrogen carbonate solution; three extractions with dichloromethane (3×50 ml) are performed on this mixture, the aqueous phase is filtered and the aqueous solution is acidified with 8 ml of 1N hydrochloric acid. The precipitate formed is filtered off, washed with water and dried at 80° C. under vacuum (1 mmHg; 0.13 kPa) to give 0.35 g of 10-(carboxymethyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one in the form of a greenish solid melting above 260° C. (Analysis, % calculated C: 64.05, H: 3.94, N: 14.94, O: 17.06, % found C: 63.7, H: 3.2, N: 14.9).

reactant | 10-(tert-butoxycarbonyl-methyl)-5H,10H-imidazo[l,2-a]indeno[1,2-e]pyrazin-4-one | 1 g | C(C)(C)(C)OC(=O)CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H19N3O3
reactant | dimethyl sulphoxide | 5 ml | CS(=O)C | C2H6OS
reactant | hydrochloric acid | 3N, 25 ml | Cl | ClH
reactant | sodium hydrogen carbonate | 7 ml | C(O)([O-])=O.[Na+]
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 10-(carboxymethyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one | 0.35 g | C(=O)(O)CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C15H11N3O3
